US04816452
a. Ethyl 2-(2-tritylaminothiazol-4-yl)-(Z)-2-(4-oxocyclohexyloxyimino)acetate
4-Hydroxycyclohexanone (570 mg; J. B. Aldersley, G. N. Burkhardt, A. E. Gillam, and N. C. Hindley, J. Chem. Soc., 1940, 10) ethyl 2-(2-tritylaminothiazol-4-yl)-(Z)-2-hydroxyiminoacetate (1.37 g) and triphenyl-phosphine (860 mg) in anhydrous benzene (9 ml) were allowed to react with dimethyl azodicarboxylate (0.40 ml) as described in Example 67c except the reaction time was 14 days. Workup and chromatography gave the title compound (158 mg), νmax (KBr) 3390, 1737, 1710, 1596, 1585, 1529, and 1491cm-1 ; δH (CDCl3) 1.33 (3H, t, J 7Hz), 2.01, 2.31, and 2.55 (8H, 3m), 4.36 (2H, q, J 7z), 4.73 (1H, m), 6.52 (1H, s), 6.97 (1H, brs, D2O exch.), and 7.30 (15H, br s).

reactant | 4-Hydroxycyclohexanone | OC1CCC(CC1)=O | C6H10O2
reactant | ethyl 2-(2-tritylaminothiazol-4-yl)-(Z)-2-hydroxyiminoacetate | 1.37 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)OCC)=N/O | C26H23N3O3S
reactant | triphenyl-phosphine | 860 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | dimethyl azodicarboxylate | 0.40 ml | N(=NC(=O)OC)C(=O)OC | C4H6N2O4
reactant | KBr | [K+].[Br-]
solvent | benzene | 9 ml | C1=CC=CC=C1 | C6H6
product | Ethyl 2-(2-tritylaminothiazol-4-yl)-(Z)-2-(4-oxocyclohexyloxyimino)acetate | 158 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)OCC)=N/OC1CCC(CC1)=O | C32H31N3O4S
